US06555556B1
4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-3-carboxynitrobenzene
To a solution of 4-(1-t-butoxycarbonylpiperidin-4-yloxy)-3-ethoxycarbonylnitrobenzene (1.0 g) in ethanol (10 ml) was added aqueous potassium hydroxide solution (0.2 g in 0.5 ml) and the mixture was heated under reflux for 2 hours. After neutralization with 1M hydrochloric acid, the reaction mixture was extracted with ethyl acetate. The extract was washed with water and brine. The organic layer was dried over anhydrous magnesium sulfate, filtered and the filtrate concentrated in vacuo to give the desired compound (0.9 g, yield 96%) as a yellow solid.

reactant | 4-(1-t-butoxycarbonylpiperidin-4-yloxy)-3-ethoxycarbonylnitrobenzene | 1.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1)[N+](=O)[O-])C(=O)OCC | C19H26N2O7
reactant | potassium hydroxide | 0.5 ml, 0.2 g | [OH-].[K+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-3-carboxynitrobenzene | 0.9 g, yield 96% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1)[N+](=O)[O-])C(=O)O | C17H22N2O7
